US06251905B1
ii) Synthesis of 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine
To a solution of 11.78 g (25.36 mmol) of 5-[N-tert-butoxycarbonyl-N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine and 13.94 g (114.36 mmol) of 4-(N,N-dimethylamino)pyridine in 250 ml of chloroform was added 8.50 ml (76.09 mmol) of trichloroacetyl chloride. The mixture was heated for 16 hours under reflux. The reaction mixture was poured into ice-water, and extracted with 100 ml of chloroform. The organic layer was washed with 200 ml of a saturated aqueous saline solution, dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) to afford 6.80 g of the desired compound (44.0%, a pale yellow liquid).

reactant | 5-[N-tert-butoxycarbonyl-N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 25.36 mmol, 11.78 g | C(C)(C)(C)OC(=O)N(CCCCNC(C(C(F)(F)F)(F)F)=O)CC1=CC=CC=2N1C=CN2 | C20H25F5N4O3
reactant | trichloroacetyl chloride | 76.09 mmol, 8.50 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
catalyst | 4-(N,N-dimethylamino)pyridine | 114.36 mmol, 13.94 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-trichloroacetyl-5-[N-tert-butoxycarbonyl-N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 6.80 g | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCCNC(C(C(F)(F)F)(F)F)=O)C(=O)OC(C)(C)C)(Cl)Cl | C22H24Cl3F5N4O4
